US06346526B1
A solution of allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate (365 mg, 1.0 mmol), triphenylphosphine (315 mg, 1.2 mmol), and 7-(2-triethylsilanyloxy-ethyl)-1,1-dioxo-2,3-dihydro-naphtho[1,8-de][1,2]thiazin-3-one (431 mg, 1.1 mmol) in anhydrous tetrahydrofuiran (7 mL) is cooled in an ice-bath and stirred under a nitrogen atmosphere while diisopropyl azodicarboxylate (0.24 mL, 1.2 mmol) is added dropwise over a few minutes. The resulting solution is stirred in the cold for 30 minutes, then diluted with chloroform, washed with 5% aqueous sodium bicarbonate and brine, dried over sodium sulfate, filtered and evaporated under vacuum. The residue is purified by silica gel flash chromatography, eluting with hexane-ethyl acetate, to afford allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-1-methyl-2-[1,1,3-trioxo-7-(2-triethylsilanyloxy-ethyl)-2,3-dihydro-naphtho[1,8-de][1,2]thiazin-2-ylmethyl]-carbapen-2-em-3-carboxylate.

reactant | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-2-hydroxymethyl-1-methyl-carbapen-2-em-3-carboxylate | 1.0 mmol, 365 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | triphenylphosphine | 1.2 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 7-(2-triethylsilanyloxy-ethyl)-1,1-dioxo-2,3-dihydro-naphtho[1,8-de][1,2]thiazin-3-one | 1.1 mmol, 431 mg | C(C)[Si](OCCC=1C2=CC=CC=3C(NS(C(C32)=CC1)(=O)=O)=O)(CC)CC | C19H25NO4SSi
reactant | diisopropyl azodicarboxylate | 1.2 mmol, 0.24 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | allyl (1S,5R,6S)-6-[1(R)-allyloxycarbonyloxy-ethyl]-1-methyl-2-[1,1,3-trioxo-7-(2-triethylsilanyloxy-ethyl)-2,3-dihydro-naphtho[1,8-de][1,2]thiazin-2-ylmethyl]-carbapen-2-em-3-carboxylate | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2S(C=3C4=C(C2=O)C=CC=C4C(=CC3)CCO[Si](CC)(CC)CC)(=O)=O)C(=O)OCC=C)C1=O | C37H46N2O10SSi
